US04544562
5.0 g (24.6 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone and 3.6 g (29.4 millimoles) of 2-methoxypropionyl chloride in 150 ml of absolute tetrahydrofuran were refluxed for 2 hours, while stirring. The mixture was evaporated down, the residue was stirred with water and the product was filtered off under suction, washed with water, dried, and recrystallized from propanol. 4.0 g (56%) of 6-[p-(2-methoxypropionylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone were obtained as colorless crystals. Mp.: 193°-194° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 24.6 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 2-methoxypropionyl chloride | 29.4 millimoles, 3.6 g | COC(C(=O)Cl)C | C4H7ClO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-[p-(2-methoxypropionylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 4.0 g, 56% | COC(C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C | C15H19N3O3
